US07060822B1
3-(4-Methoxyphenylamino)-2-pyrazolin-5-one
A mixture of 3-amino-2-pyrazolin-5-one (20 mmol), 4-methoxyaniline (25 mol) in 50 ml of acetic acid was refluxed for 4 hours. The solvent was evaporated, the residue was suspended in water. The solid was filtered and crystallized from methanol.

reactant | 3-amino-2-pyrazolin-5-one | 20 mmol | NC1=NNC(C1)=O | C3H5N3O
reactant | 4-methoxyaniline | 25 mol | COC1=CC=C(N)C=C1 | C7H9NO
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Methoxyphenylamino)-2-pyrazolin-5-one | COC1=CC=C(C=C1)NC1=NNC(C1)=O | C10H11N3O2
